V:Vds nd gnd V=$Vds
V:Vgs ng gnd V=$Vgs
MOSFET:DUT gnd ng nd gnd @NMOS
.dc
  .sweep param="Vgs" type="lin" start=3 stop=10 points=5
  .sweep param="Vds" type="lin" start=0 stop=10 points=100
